US09216999B2
trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanamine
5% Palladium-carbon (5.00 mg) was added to benzyl [trans-4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]carbamate (7.00 mg, 0.0180 mmol) in a mixture of ethanol (1 mL) and chloroform (1 mL) under an argon atmosphere, and after the reaction system was flushed with hydrogen, the reaction mixture was stirred at room temperature for one day and then filtered. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel thin layer chromatography (NH-PLC05 plate manufactured by Fuji Silysia Chemical Ltd.: methanol/chloroform=1/19 (v/v)) to give the title compound as a colorless solid (0.35 mg, yield 8.0%).

reactant | benzyl [trans-4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]carbamate | 0.0180 mmol, 7.00 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)NC(OCC3=CC=CC=C3)=O | C21H22N6O2
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Palladium-carbon | 5.00 mg | [C].[Pd]
product | trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanamine | 0.35 mg, yield 8.0% | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)N | C13H16N6
